US06777422B2
A. 3-Methyl-2-o-tolyl-pyridine
A mixture of 2-bromo-3-methylpyridine (1.09 g; 6.34 mmol), o-tolylboronic acid (1.29 g; 9.50 mmol), and Pd(PPh3)4 (147 mg; 2 mol %) in DME (30 ml) is stirred for 10 minutes at room temperature. Sodium carbonate (32 ml of 1M solution in water; 32 mmol) is added to this mixture and the mixture is heated for 16 hours at 80° C. The reaction mixture is treated with water and extracted with dichloromethane. The combined extracts are washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue is purified by flash chromatography over silica gel (elution with 20% EtOAc/Hexane) to 3-methyl-2-o-tolyl-pyridine as a yellow oil. 1H NMR(300 MHz, CDCl3) δ 8.51(d, 1H), 7.58(d, 1H), 7.27-7.15(m, 5H), 2.14(s, 3H), 2.10(s, 3H).

reactant | 2-bromo-3-methylpyridine | 6.34 mmol, 1.09 g | BrC1=NC=CC=C1C | C6H6BrN
reactant | o-tolylboronic acid | 9.50 mmol, 1.29 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | Sodium carbonate | 32 mmol, 1M, 32 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | 30 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 147 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Methyl-2-o-tolyl-pyridine | CC=1C(=NC=CC1)C1=C(C=CC=C1)C | C13H13N
